US09023978B2
Synthesis of H 2-(6-p-pyridyl-phenyl)-7-(9,9-dihexylfluorenyl)-9,9-dioctylfluorene
To a solution of 400 mg (0.60 mmol) of 2-(6-p-pyridyl-phenyl)-7-iodo-9,9-dioctylfluorene, 362 mg (0.60 mmol) of 2-(4,4,5,5 tetramethyl-1,3,2-dioxaborolane)-9,9-dihexylfluorene in 10 mL of toluene was added: 4 mg (0.004 mmol) Pd(PPh3)4 and 2.5 ml of an 20% (3.1 mmol) Et4NOH solution in water. This two-phase reaction mixture was stirred for 48 h at 110° C. after which it was extracted using dichloromethane/water. The organic layer was dried on MgSO4 and the solvents were removed under reduced pressure. The crude product was purified using flash chromatography. Yield 450 mg (86%). 1H NMR (400 MHz, CDCl3): δ=8.74 (d, 3J=4.9 Hz, 1H; CH—N), 8.13 (d, 3J=4.6 Hz, 2H; CH—C—C(CH)—N), 7.84-7.77 (mp, 6H, ArH), 7.74 (d, 3J=6.0 Hz, 2H, CH—CH—CH—N), 7.69-7.63 (mp, 6H; ArH), 7.39-7.30 (mp, 3H; ArH), 7.27-7.24 (mp, 1H (obscured by CDCl3 peak; ArH), 2.11-2.02 (mp, 8H, C—CH2), 1.18-1.09 (mp, 32H, CH2), 0.81-0.74 (mp, 20H, CH2—CH3). 13C{1H} NMR (500 MHz, CDCl3): δ=157.1 (CN), 151.8, 151.4, 151.0 (C—C—CH2), 149.8 (CH—N), 142.2, 140.8, 140.6, 140.42; 140.39, 140.3, 139.9, 139.3, 138.1 (ArC), 136.8 (CH—CH—CH—N), 127.5, 127.3, 126.9, 126.8, 126.1, 126.0, 122.1, 122.0, 121.44, 121.38, 120.4, 120.0, 119.8, 119.7 (CH), 55.3, 55.1 (C—CH2), 40.4 (C—CH2), 31.7, 31.5, 30.0, 29.7, 29.18, 29.16 (CH2), 23.8, 23.7 (C—CH2—CH2), 22.6, 22.5 (CH3—CH2), 14.03, 13.99 (CH3). Exact Mass (IE): 875.6367 [M]+(calcd 875.6369) fractions m/z: 762.3 (m; [M-(C8H17)]+, 650.4 (m; [M-(C8H17)2]+. C65H81N: calcd. C, 89.09; H, 9.32; N, 1.60. found: C, 88.60; H, 9.25; N, 1.52.

reactant | 2-(6-p-pyridyl-phenyl)-7-iodo-9,9-dioctylfluorene | 0.60 mmol, 400 mg | N1=CC=C(C=C1)C1=CC=CC=C1C1=CC=2C(C3=CC(=CC=C3C2C=C1)I)(CCCCCCCC)CCCCCCCC | C40H48IN
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | Pd(PPh3)4 | 0.004 mmol, 4 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(6-p-pyridyl-phenyl)-7-(9,9-dihexylfluorenyl)-9,9-dioctylfluorene | N1=CC=C(C=C1)C1=CC=CC=C1C1=CC=2C(C3=CC(=CC=C3C2C=C1)C1=CC=CC=2C3=CC=CC=C3C(C12)(CCCCCC)CCCCCC)(CCCCCCCC)CCCCCCCC | C65H81N
